US05244889
2-oxo-1-azacyclotetradecane-3,14-dicarboxylic acid (0.868 g, 2.9 mmol) is dissolved in pyridine (15.0 mL). Piperidine (0.060 mL, 0.59 mmol) is added, followed by paraformaldehyde (0.133 g, 4.43 mmol), and the reaction is heated to 65° C. for 4 hours. The reaction is then cooled to 0° C., and concentrated hydrochloric acid is added to bring the pH to approximately 2. The reaction is partitioned between ethyl acetate and water, and the aqueous phase is extracted several times with ethyl acetate. The combined organic layers are dried (Na2SO4), and the solvent is evaporated to give 3-methylidene-2-oxo-1-azacyclotetradecane-14-carboxylic acid.

reactant | 2-oxo-1-azacyclotetradecane-3,14-dicarboxylic acid | 2.9 mmol, 0.868 g | O=C1NC(CCCCCCCCCCC1C(=O)O)C(=O)O | C15H25NO5
reactant | Piperidine | 0.59 mmol, 0.060 mL | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 4.43 mmol, 0.133 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 15.0 mL | N1=CC=CC=C1 | C5H5N
product | 3-methylidene-2-oxo-1-azacyclotetradecane-14-carboxylic acid | C=C1C(NC(CCCCCCCCCC1)C(=O)O)=O | C15H25NO3
